US09034880B2
A mixture of 2,2,2-trichloroethyl 3,4-dihydro-8-methyl-5-phenethyl-1H-pyrido[4,3-b]indole-2(5H)-carboxylate (100 mg, 0.2 mmol) and Zn dust (120 mg, 1.9 mmol) in acetic acid (1.2 ml) was stirred at 25° C. for 2 h. The reaction mixture was basified with saturated aqueous NaHCO3 and extracted with ethyl acetate. The organic layer was dried over anhydrous sodium sulfate and evaporated to obtain 30 mg of 2,3,4,5-tetrahydro-8-methyl-5-phenethyl-1H-pyrido[4,3-b]indole after purification on silica gel (230-400 mesh) chromatography eluting with methanol-dichloromethane gradient.

reactant | 2,2,2-trichloroethyl 3,4-dihydro-8-methyl-5-phenethyl-1H-pyrido[4,3-b]indole-2(5H)-carboxylate | 0.2 mmol, 100 mg | CC1=CC=2C3=C(N(C2C=C1)CCC1=CC=CC=C1)CCN(C3)C(=O)OCC(Cl)(Cl)Cl | C23H23Cl3N2O2
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | acetic acid | 1.2 ml | C(C)(=O)O | C2H4O2
catalyst | Zn | 1.9 mmol, 120 mg | [Zn] | Zn
product | 2,3,4,5-tetrahydro-8-methyl-5-phenethyl-1H-pyrido[4,3-b]indole | 30 mg | CC1=CC=2C3=C(N(C2C=C1)CCC1=CC=CC=C1)CCNC3 | C20H22N2
